US07893056B2
Tris(1,1-dimethylethyl)2-(2,6-dichloro-5-fluoro-4-pyrimidinyl)-1,1,2-hydrazinetricarboxylate (1.84 g, 3.71 mmol) was dissolved in THF (5 mL). To this solution was added triethylamine (0.62 mL, 4.4482 mmol), followed by [2-(3-thienyl)ethyl]amine (0.470 g, 3.70 mmol) which was semi-suspended in THF (15 mL). The reaction was left to stir overnight, then diluted with water and saturated NaCl. The aqueous layer was extracted with ethyl acetate. The organics were dried (MgSO4) and concentrated to produce tris(1,1-dimethylethyl)2-(2-chloro-5-fluoro-6-{[2-(3-thienyl)ethyl]amino}-4-pyrimidinyl)-1,1,2-hydrazinetricarboxylate as an orange oil (2.389 g). LCMS: (M+H)+=588.3.

reactant | Tris(1,1-dimethylethyl)2-(2,6-dichloro-5-fluoro-4-pyrimidinyl)-1,1,2-hydrazinetricarboxylate | 3.71 mmol, 1.84 g | CC(C)(C)OC(=O)N(N(C(=O)OC(C)(C)C)C1=NC(=NC(=C1F)Cl)Cl)C(=O)OC(C)(C)C | C19H27Cl2FN4O6
reactant | triethylamine | 4.4482 mmol, 0.62 mL | C(C)N(CC)CC | C6H15N
reactant | [2-(3-thienyl)ethyl]amine | 3.70 mmol, 0.470 g | S1C=C(C=C1)CCN | C6H9NS
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | NaCl | [Na+].[Cl-]
product | tris(1,1-dimethylethyl)2-(2-chloro-5-fluoro-6-{[2-(3-thienyl)ethyl]amino}-4-pyrimidinyl)-1,1,2-hydrazinetricarboxylate | 2.389 g | CC(C)(C)OC(=O)N(N(C(=O)OC(C)(C)C)C1=NC(=NC(=C1F)NCCC1=CSC=C1)Cl)C(=O)OC(C)(C)C | C25H35ClFN5O6S
